US09212182B2
To a solution of 1-(4-bromo-2-(cyanomethoxy)-5-fluorophenyl)-N-(isoxazol-3-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide (0.020 g, 0.039 mmol) and (4-chloro-3-methylphenyl)boronic acid (9.84 mg, 0.058 mmol) in DMF (0.154 ml) and water (0.039 ml) was added potassium carbonate (0.016 g, 0.116 mmol) followed by PdCl2dppf, DCM adduct (1.409 mg, 1.926 μmol). The resulting mixture was heated to 50° C. and stirred for 3.5 hours. The solution was then cooled to RT, dissolved in 1.5 ml of DMSO and passed through a 0.20 Micron filter. An additional 0.5 ml was used to rinse the reaction vial and the solution was passed through the same filter. The resulting. DMSO solution was purified by reverse-phase HPLC (Waters XBridge Prep Shield RP18 10 μm OBD 19×100 mm) gradient, 30 to 95% MeCN in water (containing 0.1% trifluoroacetic acid as an additive), flow rate 40 mL/min to yield 1-(4′-chloro-5-(cyanomethoxy)-2-fluoro-3′-methyl-[1,1′-biphenyl]-4-yl)-N-(isoxazol-3-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide (5.7 mgs, 26% yield). 1H NMR (500 MHz, DMSO-d6) □=ppm 2.45 (s, 3 H) 5.17-5.27 (m, 2 H) 6.79-6.91 (m, 1 H) 7.00 (br. s., 1 H) 7.10 (br. s., 1 H) 7.20 (br. s., 1 H) 7.54 (d, J=8.04 Hz, 2 H) 7.58-7.66 (m, 2 H) 7.69 (br. s., 1H) 7.87 (d, J=8.89 Hz, 1 H) 8.25 (d, J=7.98 Hz, 1 H) 8.39 (s, 1 H) 8.72 (s, 1 H). m/z (ESI) 565.0 (M+H)+.

reactant | 1-(4-bromo-2-(cyanomethoxy)-5-fluorophenyl)-N-(isoxazol-3-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide | 0.039 mmol, 0.020 g | BrC1=CC(=C(C=C1F)N1C(C=CC2=CC(=CC=C12)S(=O)(=O)NC1=NOC=C1)=O)OCC#N | C20H12BrFN4O5S
reactant | (4-chloro-3-methylphenyl)boronic acid | 0.058 mmol, 9.84 mg | ClC1=C(C=C(C=C1)B(O)O)C | C7H8BClO2
reactant | potassium carbonate | 0.116 mmol, 0.016 g | C([O-])([O-])=O.[K+].[K+]
reactant | DCM | 1.926 μmol, 1.409 mg | C(Cl)Cl | CH2Cl2
solvent | DMF | 0.154 ml | CN(C)C=O | C3H7NO
solvent | water | 0.039 ml | O | H2O
solvent | DMSO | 1.5 ml | CS(=O)C | C2H6OS
product | 1-(4′-chloro-5-(cyanomethoxy)-2-fluoro-3′-methyl-[1,1′-biphenyl]-4-yl)-N-(isoxazol-3-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide | 5.7 mgs, 26% yield | ClC1=C(C=C(C=C1)C1=C(C=C(C(=C1)OCC#N)N1C(C=CC2=CC(=CC=C12)S(=O)(=O)NC1=NOC=C1)=O)F)C | C27H18ClFN4O5S
